US05449837
Fifty grams (0.50 mol) of CF3CH2OH, 192 g (1.25 mol) of CCl4, 280 g (14 mol) of HF, and 7 g (0.1 mol) of BF3 were charged to a 1.2 liter metal tube and the mixture was agitated at 150° C. and autogeneous pressure for 8 hours. The tube was cooled and 300 mL of water was pumped in. The tube was brought to room temperature and volatiles (108.6 g) were transferred under vacuum to a 1 liter stainless steel cylinder fitted with a needle valve. The contents of the cylinder were held at 25° C. while low boilers were transferred out at 1 atmosphere and distilled from CaCl2 through a low-temperature still. A 2.5 mL foreshot having a boiling point range of -14° to 2.5° C., largely CF2Cl2, was followed by 62.7 g of product, boiling point range of 2.5° to 15° C. (mainly 8° to 9° C.), then 8 mL with a boiling point range of 15° to 23.5° C., largely CFCl3. The main product cut was shown by NMR and GC/MS to be 84% CF3CH2OCF3 with 6% CF2Cl2 and 10% CFCl3 also present, so that 2,2,2-trifluoroethyl trifluoromethyl ether was obtained in 63% yield, 52.7 g.

reactant | CF3CH2OH | 0.50 mol, Fifty grams | C(F)(F)(F)CO | C2H3F3O
reactant | CCl4 | 1.25 mol, 192 g | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | BF3 | 0.1 mol, 7 g | B(F)(F)F | BF3
solvent | water | 300 mL | O | H2O
product | 2,2,2-trifluoroethyl trifluoromethyl ether | 63% yield | FC(F)(F)OCC(F)(F)F | C3H2F6O
